data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH:21].CCC(C(C)C=O)[O-:10]>>[H:20][O:10]C(CC)C(C)C=O.[OH-:21] 10=20;20,21=21
C[O+:21]=[CH:20]CCC1=CC=CC=C1.C[Si](C)(C)C[CH:11]=[CH2:10].CO[Fe-](Cl)(Cl)Cl>>C[O:21][CH:20](CCC1=CC=CC=C1)[CH2:10][CH+:11]C[Si](C)(C)C.CO[Fe-](Cl)(Cl)Cl 10,11=10,20;20,21=21
CCC(C[C:10]#[C:11]C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCC1C[C:10](=[C+:11]C)[CH2:20][N:21](C1)CC2=CC=CC=C2 10,11=10,20;20,21=21
C1CC[C:10](C1)(C2=C3C=CC=CC3=CC=C2)[OH2+:11].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1CC[C+:10](C1)C2=C3C=CC=CC3=CC=C2.[OH2:11].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10,11=11
[H:20][Cl:21].CC1(CCC[CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCCC([C+:11]1C2=CC=CC=C2)(C)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
CC1=CC[C:20]([N:10]1C2CCCCC2N)(C3=CC=CC=C3)[OH2+:21].CC(=O)[O-].CO.O>>CC1=CC[C:20](=[N+:10]1C2CCCCC2N)C3=CC=CC=C3.[OH2:21].CC(=O)[O-].CO.O 10=20;20,21=21
CC(C)(C)[Si-:10](C)(C)(C)[O+:11](C)C>>CC(C)(C)[Si:10](C)(C)C.C[O:11]C 10,11=11
C[C:11](=[CH2:10])[O-:12].C1=CC=C(C=C1)[CH:20]=[O:21]>>C[C:11](=[O:12])[CH2:10][CH:20](C1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21;12=11
C[C:20]1(SCCC[S:10]1)[OH2+:21]>>C[C:20]1=[S+:10]CCCS1.[OH2:21] 10=20;20,21=21
CO[Si-:10](C)(C)(C)[O+:11]=C>>CO[Si:10](C)(C)C.C=[O:11] 10,11=11
[H:20][OH2+:21].CC(C)(CO)C[O:10]C1(CC2CC(CC2C1)OC)O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C>>[H:20][O+:10](CC(C)(C)CO)C1(CC2CC(CC2C1)OC)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OCC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCO[C:24]1=[CH:23][CH:22]=[C:21](C=C1)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
CCOC1(C([O:10]1)C2CCCCC2)C(C(F)(F)F)(F)F.C[Al:20](C)C>>CCOC1(C([O+:10]1[Al-:20](C)(C)C)C2CCCCC2)C(C(F)(F)F)(F)F 10=20,
CC(C)CC(C(=O)NCC1=CC=CC=C1)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NCC1=CC=CC=C1)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CCC(CC(C)C)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCC(CC(C)C)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
[H:20][O:21]S(=O)(=O)O.C[O:12][CH:11]=[CH:10]C1=CC=CC=C1>>[H:20][CH:10]([CH:11]=[O+:12]C)C1=CC=CC=C1.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CCC(=[O:10])C>>[H:20][O+:10]=C(C)CC.[OH2:21] 10=20;20,21=21
CC[O-:10].CC(C)[C:20](=[O:21])OC>>CC[O:10][C:20](C(C)C)([O-:21])OC 10=20;20,21=21
CCC(=O)N[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.C[CH+:20]C>>CCC(=O)N[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[CH:20](C)C 10,11=10,20;12,13=11,12
C[NH:10]C.F[Cu:20]F>>C[NH+:10](C)[Cu-:20](F)F 10=20,
CCCC1=C([CH:10]=[C:11](C(=C1)OC)[O:12]C)CC/[NH+:21]=[C:20](\CC)/OP(=O)(Cl)Cl.[Cl-]>>CCCC1=C2[CH:10]([C:11](=[O+:12]C)C(=C1)OC)[C:20](CC)([NH:21]CC2)OP(=O)(Cl)Cl.[Cl-] 10,11=10,20;12=11;20,21=21
C[C+:20]=[C:10]1CC([O+]([Si-:11]1(C)(C)C)[Ti-](Cl)(Cl)(Cl)Cl)CCC2=CC=CC=C2>>C[C:20]#[C:10]CC(CCC1=CC=CC=C1)[O+]([Si:11](C)(C)C)[Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20
CC#[N:10].Cl[Cu:20]Cl>>CC#[N+:10][Cu-:20](Cl)Cl 10=20,
[H:20][O:21]S(=O)(=O)O.CCC(C)(N1CCCC1)[OH:10]>>[H:20][OH+:10]C(C)(CC)N1CCCC1.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1CC[C:20]2(C1(CC([C:11](=[CH:10]2)[O-:12])[Si](C)(C)C)CCC#C)[OH:21].CO.O[K]>>CC1CC[C:20]2=[CH:10][C:11](=[O:12])C(CC12CCC#C)[Si](C)(C)C.[OH-:21].CO.O[K] 10,11=10,20;20,21=21;12=11
[H:20][NH:21]N=C1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3C)O.[OH-:10].O.[K+]>>[H:20][OH:10].CN1CCC23C4C(=N[NH-:21])CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O.O.[K+] 10=20;20,21=21
C[P+](C)(C)[CH-:10][CH2:20][NH3+:21]>>C[P+](C)(C)[CH:10]=[CH2:20].[NH3:21] 10=20;20,21=21
[H:20][NH2+:21]N.CN1C(=CN2C=CC=C2C1=O)CCC[N:10]=[C:11](C3=C(C=CC=C3)C(=O)NN)[O-:12].O.[Cl-].[K+]>>N[NH2:21].[H:20][N:10](CCCC1=CN2C=CC=C2C(=O)N1C)[C:11](=[O:12])C3=C(C=CC=C3)C(=O)NN.O.[Cl-].[K+] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH2:10])CCO>>[H:20][CH2:10][C+:11](C)CCO.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CCCC1C[C:20](OC1)([OH2+:21])[OH:10].C(=O)(C(F)(F)F)[O-]>>CCCC1C[C:20](=[OH+:10])OC1.[OH2:21].C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)S(=O)(=O)O)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC(=C2)S(=O)(=O)O)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CC[O:10][C:20](C)(C)[Br:21]>>CC[O+:10]=[C:20](C)C.[Br-:21] 10=20;20,21=21
C[C:20](=[O:21])OC(=O)C[K].CN(C)C1=CC=[N:10]C=C1.CCN(CC)CC.CC(C)(C)O>>C[C:20]([N+:10]1=CC=C(C=C1)N(C)C)([O-:21])OC(=O)C[K].CCN(CC)CC.CC(C)(C)O 10=20;20,21=21
C[O+:11](C)[K:10]>>C[O:11]C.[K+:10] 10,11=11
C1CCC[C:20](=[O:21])CCC1.C1=CC=C(C=C1)C[NH2:10].CC1=CC=C(C=C1)S(=O)(=O)O>>C1CCC[C:20](CCC1)([NH2+:10]CC2=CC=CC=C2)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
C[C:11]1(CCC[CH+:20]1)[CH3:10]>>[CH3:10][CH:20]1CCC[C+:11]1C 10,11=10,20
[H:20][OH2+:21].C=CC(=O)[O-:10]>>[H:20][O:10]C(=O)C=C.[OH2:21] 10=20;20,21=21
CC1=C2C=CN=CC2=C(C3=C1N(C4=CC=[C:10](C=C43)[CH:11]([OH:12])[O:20][OH2+:21])C)C.OS(=O)(=O)[O-]>>CC1=C2C=CN=CC2=C(C3=C1N(C4=CC=[C:10](C=C43)[O:20][CH:11]=[OH+:12])C)C.[OH2:21].OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[P:10](C)(C)(O)[I:11]>>C[P+:10](C)(C)O.[I-:11] 10,11=11
